US08791303B2
To a solution of 5-(4-fluoro-benzyl)-3-methoxy-2-(2,4,6-trimethyl-phenyl)-cyclopent-2-enone (136 mg, 0.40 mmol) in acetone (2 ml) is added a 2N solution of hydrochloric acid (2 ml) and the resulting solution is heated to 40° C. by microwave irradiation for 30 minutes. The reaction mixture is diluted with 2N hydrochloric acid (25 ml), and extracted with ethyl acetate (2×25 ml). The combined organics are washed with brine (25 ml), dried over magnesium sulphate, filtered and concentrated in vacuo to give 4-(4-fluoro-benzyl)-2-(2,4,6-trimethyl-phenyl)-cyclopentane-1,3-dione (124 mg).

reactant | 5-(4-fluoro-benzyl)-3-methoxy-2-(2,4,6-trimethyl-phenyl)-cyclopent-2-enone | 0.40 mmol, 136 mg | FC1=CC=C(CC2CC(=C(C2=O)C2=C(C=C(C=C2C)C)C)OC)C=C1 | C22H23FO2
solvent | acetone | 2 ml | CC(=O)C | C3H6O
solvent | hydrochloric acid | 2N, 25 ml | Cl | ClH
solvent | hydrochloric acid | 2 ml | Cl | ClH
product | 4-(4-fluoro-benzyl)-2-(2,4,6-trimethyl-phenyl)-cyclopentane-1,3-dione | 124 mg | FC1=CC=C(CC2C(C(C(C2)=O)C2=C(C=C(C=C2C)C)C)=O)C=C1 | C21H21FO2
